US04871842
In 30 ml of N,N-dimethylformamide are dissolved 2.4 g of L-proline tert-butyl ester and 5.87 g of Nα -benzyloxycarbonyl-Nε -tert-butoxycarbonyl-L-lysine, and 3 g of diethyl phosphorocyanidate is added dropwise to the solution under ice-cooling. After stirring for 30 minutes, a solution of 1.42 g of triethylamine in 5 ml of N,N-dimethylformamide is added to the mixture, followed by stirring under ice-cooling for 1 hour and then at room temperature for 2 hours. 500 ml of water is added to the reaction mixture, and the mixture is extracted with 300 ml of ethyl acetate. The extract is washed with aqueous dilute phosphoric acid, 0.1N aqueous sodium hydroxide and water, successively, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting oily material is purified by silica gel column chromatography (hexane:ethyl acetate=2:1 to 1:1) to give 5.5 g of N-(Nα -benzyloxycarbonyl-Nε -tert-butoxycarbonyl-L-lysyl)-L-proline tert-butyl ester as a colorless oil.

reactant | L-proline tert-butyl ester | 2.4 g | C(C)(C)(C)OC([C@H]1NCCC1)=O | C9H17NO2
reactant | Nα -benzyloxycarbonyl-Nε -tert-butoxycarbonyl-L-lysine | 5.87 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)O | C19H28N2O6
reactant | diethyl phosphorocyanidate | 3 g | P(OCC)(OCC)(=O)C#N | C5H10NO3P
reactant | triethylamine | 1.42 g | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 500 ml | O | H2O
product | N-(Nα -benzyloxycarbonyl-Nε -tert-butoxycarbonyl-L-lysyl)-L-proline tert-butyl ester | 5.5 g | C(C)(C)(C)OC([C@H]1N(CCC1)C([C@@H](NC(=O)OCC1=CC=CC=C1)CCCCNC(=O)OC(C)(C)C)=O)=O | C28H43N3O7
